spice
* SPICE Netlist for the given schematic

IREF 6 0 DC 0.25mA
I1 5 0 DC 0.75mA
I2 2 0 DC 0.5mA

QREF 6 2 0 QMODEL
Q1 6 3 0 QMODEL
Q2 3 4 0 QMODEL
Q3 4 5 0 QMODEL
Q4 2 2 0 QMODEL
Q5 2 2 0 QMODEL

.model QMODEL NPN(IS=1E-15 BF=100)